US09382238B2
To a solution of N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridine-3-yl)-2-fluorophenyl)acetamide (870 mg, 1.501 mmol) in DCM (10 mL) was added TFA (1.157 mL, 15.01 mmol) at 0° C. The mixture was stirred at rt for 1 h. The mixture was basified with NH4OH (5 mL, 20%) to pH=8, filtered to give a solid, which was washed with H2O (5 mL) and dried to afford the product N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (462.91 mg, 0.973 mmol, 64.8% yield): 1H NMR (400 MHz, CD3OD): δ 8.24 (s, 1H), 7.96-8.05 (m, 1H), 7.90-7.96 (m, 1H), 7.36-7.40 (m, 2H), 7.20-7.28 (m, 2H), 6.00 (s, 1H), 4.12 (q, J=7.2 Hz, 2H), 3.85 (s, 2H), 1.38 (t, J=7.2 Hz, 3H): LCMS (m/z): 459.9 (M+H).

reactant | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridine-3-yl)-2-fluorophenyl)acetamide | 1.501 mmol, 870 mg | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=CC1OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H25F4N3O4
reactant | TFA | 15.01 mmol, 1.157 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.973 mmol, 462.91 mg, 64.8% yield | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C1=CNC(C=C1OCC)=O)F)=O)C(F)(F)F | C23H17F4N3O3
